US06465508B1
N-(3-Hydroxypropyl)-1-benzofuran-2-carboxamide
2-Benzofurancarboxylic acid (5.0 g, 30.8 mmol) and 3-amino-1-propanol (2.83 ml, 37 mmol) were coupled according to the procedure of example 22 to provide 1.39 g (17.2% yield) of the desired product as a yellow solid. Electrospray Mass Spec: m/z 219.8 (M+H)+.

reactant | 2-Benzofurancarboxylic acid | 30.8 mmol, 5.0 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | 3-amino-1-propanol | 37 mmol, 2.83 ml | NCCCO | C3H9NO
product | N-(3-Hydroxypropyl)-1-benzofuran-2-carboxamide | 1.39 g, 17.2% yield | OCCCNC(=O)C=1OC2=C(C1)C=CC=C2 | C12H13NO3
